US05807899
a) 1-[4-(5-Chloropentyloxy)phenyl]-2-phenyl-butan-1-one
A solution of 2.31 g (9.6 mmol) of 4-hydroxy-2'-phenylbutyrophenone and 1.56 ml (12.0 mmol) of 1-bromo-5-chloropentane in 200 ml of acetonitrile is mixed with 1.59 g (11.5 mmol) of potassium carbonate, and it is refluxed overnight (16 hours). For working-up,-the reaction mixture is taken up in ethyl acetate/water, the organic phase is washed with water and dried on sodium sulfate. After the drying agent is filtered off and after concentration by evaporation, the crude product is chromatographed on silica gel (hexane/ethyl acetate, gradient to 95:5), yield 2.79 g (84%) as oil.

reactant | 4-hydroxy-2'-phenylbutyrophenone | 9.6 mmol, 2.31 g | OCCCC(=O)C1=C(C=CC=C1)C1=CC=CC=C1 | C16H16O2
reactant | 1-bromo-5-chloropentane | 12.0 mmol, 1.56 ml | BrCCCCCCl | C5H10BrCl
reactant | potassium carbonate | 11.5 mmol, 1.59 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 1-[4-(5-Chloropentyloxy)phenyl]-2-phenyl-butan-1-one | ClCCCCCOC1=CC=C(C=C1)C(C(CC)C1=CC=CC=C1)=O | C21H25ClO2
